US05001125
A mixture of 3 parts of 3-chloro-6-(1-piperazinyl)pyridazine. 2 parts of benzeneacetylaldehyde, 1 part of a solution of thiophene in methanol 4% and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 1.5 parts (33%) of 3-chloro-6-[4-(2-phenylethyl)-1-piperazinyl]pyridazine; mp. 140.0° C. (compound 231).

reactant | 3-chloro-6-(1-piperazinyl)pyridazine | ClC=1N=NC(=CC1)N1CCNCC1 | C8H11ClN4
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum-on-charcoal | [Pt] | Pt
product | 3-chloro-6-[4-(2-phenylethyl)-1-piperazinyl]pyridazine | 33% | ClC=1N=NC(=CC1)N1CCN(CC1)CCC1=CC=CC=C1 | C16H19ClN4
